US08076491B2
Ethyl 1H-pyrazole-4-carboxylate (4.2 g, 30 mmol), 4-(chloromethyl)-3,5-dimethylisoxazole (5.1 g, 35 mmol), and cesium carbonate (9.8 g, 30 mmol), in DMF (50 mL), were stirred at 80° C. for 12 hours. The reaction was cooled to ambient temperature, diluted with 0.1 N HCl (150 mL) and extracted with ethyl acetate (3×, 75 mL). The combined organic extracts were dried over sodium sulfate and concentrated on the rotovap. The solid product was triturated with ethyl acetate/hexanes(1/9) and collected by filtration to afford ethyl 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazole-4-carboxylate (6 g, 80%) as a white solid. 1H NMR (CDCl3, 400 MHz): δ1.34 (t, J=7.2 Hz, 3H), 2.19 (s, 3H), 2.43 (s, 3H), 4.29 (q, J=7.2 Hz, 2H), 5.06 (s, 2H), 7.77 (s, 1H), 7.91 (s, 1H).

reactant | Ethyl 1H-pyrazole-4-carboxylate | 30 mmol, 4.2 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | 35 mmol, 5.1 g | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | cesium carbonate | 30 mmol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | HCl | 0.1 N, 150 mL | Cl | ClH
product | ethyl 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazole-4-carboxylate | 6 g, 80% | CC1=NOC(=C1CN1N=CC(=C1)C(=O)OCC)C | C12H15N3O3
